US07622486B2
Synthesis of 1-(2,6-dichloro-pyridin-4-yl)-4-methyl-piperazine (I)
A mixture of N-methyl piperazine (0.604 g, 6.04 mmol) in dry DMSO (6 mL) was prepared and NaH (0.2637 g, 10.98 mmol) was added. The resulting mixture was stirred for 30 minutes at 0° C., after which time 2,4,6-trichloropyridine (1.0 g) was added. The reaction mixture was stirred at 20 to 40° C. for 4 hours. In the reaction mixture ice cold water was added and extracted with ethyl acetate giving 3-4 times water washing. The organic layer was dried and concentrated. The residue was purified by column chromatography using 100-200 mesh silica gel. Elution of the column with 20% acetone in hexanes gave the pure product as a colorless solid. Yield: 26%.

reactant | N-methyl piperazine | 6.04 mmol, 0.604 g | CN1CCNCC1 | C5H12N2
reactant | NaH | 10.98 mmol, 0.2637 g | [H-].[Na+]
reactant | 2,4,6-trichloropyridine | 1.0 g | ClC1=NC(=CC(=C1)Cl)Cl | C5H2Cl3N
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 1-(2,6-dichloro-pyridin-4-yl)-4-methyl-piperazine | Yield: 26% | ClC1=NC(=CC(=C1)N1CCN(CC1)C)Cl | C10H13Cl2N3
